US08067590B2
10a 6-Iodo-3,4-dihydro-1H-isoquinoline-2-carboxylic Acid Tert-Butyl Ester
To 13.0 g (41.6 mmol) 6-bromo-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester in 42 mL 1,4-dioxane is added 817 mg (4.21 mmol) copper(I)-iodide under argon. After flushing with argon, 0.89 mL (8.33 mmol) N,N-dimethylethylen-diamine and 12.5 g (83.3 mmol) sodium iodide is added at RT. The reaction mixture is stirred 14 h at 110° C., is cooled to RT and is diluted with 5% aqueous ammonia-solution. The layers are separated and the aqueous phase is extracted with EtOAc. The combined organic phase is washed with water and is dried over MgSO4, filtered and the solvent is evaporated to give the product.

reactant | 6-bromo-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 41.6 mmol, 13.0 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)Br | C14H18BrNO2
reactant | N,N-dimethylethylen-diamine | 8.33 mmol, 0.89 mL | CN(CCN)C | C4H12N2
reactant | sodium iodide | 83.3 mmol, 12.5 g | [I-].[Na+]
solvent | 1,4-dioxane | 42 mL | O1CCOCC1 | C4H8O2
solvent | ammonia | N | H3N
catalyst | copper(I)-iodide | 4.21 mmol, 817 mg | [Cu]I
product | 6-Iodo-3,4-dihydro-1H-isoquinoline-2-carboxylic Acid Tert-Butyl Ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)I | C14H18INO2
